US05486618
1-Phenyl-4-cyano-5-(dicyclohexylaminosulfonylureido)pyrazole
4.4 ml (50 mmol) of chlorosulfonyl isocyanate were added to a solution of 9.2 g (50 mmol) of 1-phenyl-4-cyano-5-aminopyrazole in 100 ml of methylene chloride. Stirring was carried out for 30 minutes at about 20° C., after which a solution of 7.5 ml (60 mmol) of triethylamine and 10 ml (50 mmol) of dicyclohexylamine in 50 ml of methylene chloride was slowly added dropwise. After the end of the addition, stirring was continued for a further hour and hydrolysis was then carried out with 200 ml of water. The organic phase was separated off and was worked up in a conventional manner to give the product. Yield: 87%.

reactant | chlorosulfonyl isocyanate | 50 mmol, 4.4 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-phenyl-4-cyano-5-aminopyrazole | 50 mmol, 9.2 g | C1(=CC=CC=C1)N1N=CC(=C1N)C#N | C10H8N4
reactant | triethylamine | 60 mmol, 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylamine | 50 mmol, 10 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 1-Phenyl-4-cyano-5-(dicyclohexylaminosulfonylureido)pyrazole | Yield: 87% | C1(=CC=CC=C1)N1N=CC(=C1NC(=O)NS(=O)(=O)N(C1CCCCC1)C1CCCCC1)C#N | C23H30N6O3S
